US06057337
2-(1-Docosanoyl-2-piperidyl)ethyl N-[2-(dimethylamino)ethyl]carbamate hydrochloride (Compound 19)
4N Hydrochloric acid/ethyl acetate solution (1.34 ml) was added to a solution of 2-(1-docosanoyl-2-piperidyl)ethyl N-[2-(dimethylamino)ethyl]carbamate (2.500 g) in ethyl acetate (25 ml) and the mixture was stirred for 0.5 hour. After the reaction mixture was concentrated, the residue was recrystallized with a mixed solution of ethyl acetate-ethanol, thereby yielding the entitled compound (2.287 g) as white solid.

reactant | Hydrochloric acid ethyl acetate | 4N, 1.34 ml | Cl.C(C)(=O)OCC
reactant | 2-(1-docosanoyl-2-piperidyl)ethyl N-[2-(dimethylamino)ethyl]carbamate | 2.500 g | CN(CCNC(OCCC1N(CCCC1)C(CCCCCCCCCCCCCCCCCCCCC)=O)=O)C | C34H67N3O3
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 2-(1-Docosanoyl-2-piperidyl)ethyl N-[2-(dimethylamino)ethyl]carbamate hydrochloride | 2.287 g | Cl.CN(CCNC(OCCC1N(CCCC1)C(CCCCCCCCCCCCCCCCCCCCC)=O)=O)C | InChI=1S/C34H67N3O3.ClH/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20-21-22-26-33(38)37-29-24-23-25-32(37)27-31-40-34(39)35-28-30-36(2)3;/h32H,4-31H2,1-3H3,(H,35,39);1H
